US05258357
Thiophene-3,4-dicarboxylic acid (12 g, 0.07 mol) is dissolved in acetic anhydride (60 ml) and boiled for 2.5 hours. The mixture is then concentrated to dryness. There is obtained 10.55 g (98%) of thiophene-3,4-dicarboxylic anhydride (m.p. 147°-149° C.).

reactant | Thiophene-3,4-dicarboxylic acid | 0.07 mol, 12 g | S1C=C(C(=C1)C(=O)O)C(=O)O | C6H4O4S
solvent | acetic anhydride | 60 ml | C(C)(=O)OC(C)=O | C4H6O3
product | thiophene-3,4-dicarboxylic anhydride | 10.55 g, 98% | S1C=C2C(=C1)C(=O)OC2=O | C6H2O3S
